US05597832
55c, trans-1-(5-ethyl-2-furanyl)-1,2,3,4-tetrahydro-6,7-methylenedioxy-naphthalene -2-carboxylic acid
To a freshly prepared solution of LDA (15 mmol) in 30 mL of THF cooled to -78° C. was added a solution of 3,4-methylenedioxybenzenebutanoic acid, methyl ester (14 mmol), from step 558 above, in 10 mL of THF. The solution was stirred for 5 minutes, and a solution of 5-ethylfuran-2-carboxaldehyde (13.8 mmol), from step 55b above, in 30 mL of THF was added. The reaction mixture was warmed to 0° C., and the reaction was quenched with 10 mL of satd NH4Cl. The organic layer was separated, and the aqueous layer was extracted with ether. The organic layers were combined, dried and concentrated. The residue was dissolved in 50 mL of methylene chloride, and the solution was cooled to 0° C. To this solution was added a solution of SnCl4 (1M, 13 mmol) in methylene chloride, and the reaction mixtrue was stirred for 5 minutes. The reaction was quenched with 1 N HCl (10 mL). The organic layer was separated, and the aqueous layer was extracted with methylene chloride. The organic layers were combined, dried, filtered and concentrated. The crude methyl ester intermediate was hydrolyzed with KOH in methanol by standard procedures, and the title product was isolated (3.04 g). NMR (CDCl3) δ:6.56 (s, 1H), 6.54 (s, 1H), 5.91-5.81 (m, 4H), 4.39 (d, J=7 Hz, 1H), 3.13 (m, 1H), 2.80 (t, J=7 Hz, 2H), 2.59 (q, J=8 Hz, 2H), 2.18-1.96 (m, 2H), 1.20 (t, J=8 Hz, 3H).

reactant | LDA | 15 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 3,4-methylenedioxybenzenebutanoic acid, methyl ester | 14 mmol | C1OC=2C=C(C=CC2O1)CCCC(=O)OC | C12H14O4
reactant | 5-ethylfuran-2-carboxaldehyde | 13.8 mmol | C(C)C1=CC=C(O1)C=O | C7H8O2
reactant | SnCl4 | 13 mmol, 1M | Cl[Sn](Cl)(Cl)Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trans-1-(5-ethyl-2-furanyl)-1,2,3,4-tetrahydro-6,7-methylenedioxy-naphthalene -2-carboxylic acid | C(C)C1=CC=C(O1)[C@H]1[C@@H](CCC2=CC3=C(C=C12)OCO3)C(=O)O | C18H18O5
